US07553846B2
To a solution of (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-methylcyclopropyl)benzoxazole-4-carboxamide (149 mg, 0.45 mmol) in methanol (0.5 mL) was added a solution of HCl in diethyl ether (1 N, 0.92 mL, 0.92 mmol) at room temperature slowly. The reaction mixture was diluted with diethyl ether. The resulting solid was filtered and washed with diethyl ether to afford (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-methylcyclopropyl)benzoxazole-4-carboxamide hydrochloride (82 mg, 51%) as a white solid and as a mixture of diastereomers: 1H NMR (500 MHz, DMSO-d6) δ 12.68 (br s, 1H), 9.51 (br s, 1H), 8.12 (d, J=8.0 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.38 (t, J=7.9 Hz, 1H), 4.69-4.58 (m, 1H), 3.80-3.70 (m, 1H), 3.50-3.20 (m, 5H), 2.60-2.50 (m, 1H), 2.40-2.35 (m, 1H), 2.25-1.95 (m, 4H), 1.65-1.60 (m, 1H), 1.50-1.42 (m, 1H), 1.35-1.30 (m, 2H), 1.17-1.10 (m, 2H); MS (ESI+) m/z 326 (M+H); HPLC 98.9% (AUC), tR=11.59 min.

reactant | (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-methylcyclopropyl)benzoxazole-4-carboxamide | 0.45 mmol, 149 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)[C@@H]1C(C1)C | C19H23N3O2
reactant | HCl | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 0.92 mmol, 1 N, 0.92 mL | C(C)OCC | C4H10O
product | (S)—N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(2-methylcyclopropyl)benzoxazole-4-carboxamide hydrochloride | 82 mg, 51% | Cl.N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)[C@@H]1C(C1)C | InChI=1S/C19H23N3O2.ClH/c1-11-9-14(11)19-21-17-13(3-2-4-16(17)24-19)18(23)20-15-10-22-7-5-12(15)6-8-22;/h2-4,11-12,14-15H,5-10H2,1H3,(H,20,23);1H/t11?,14-,15?;/m0./s1
